US06969711B2
Preparation of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-4-methoxyphenyl)acetamide:
Sodium hydride (7 mg, 0.3 mmol) was added to a solution of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-4-hydroxyphenyl)acetamide (99 mg, 0.2 mmol) in DMF (2 ml), the mixture was heated at 60° C. for 10 minutes, and iodomethane (43 mg, 0.3 mmol) was dropped thereinto followed stirring for 30 minutes. The reaction solution was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution successively and dried over sodium sulfate and the solvent was evaporated therefrom. The residue was purified by a preparative thin layer chromatography (developing solvent, hexane:acetone 5:3) to provide 44 mg (yield 43%) of the desired compound as colorless needles.

reactant | Sodium hydride | 0.3 mmol, 7 mg | [H-].[Na+]
reactant | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-4-hydroxyphenyl)acetamide | 0.2 mmol, 99 mg | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C=C(C=C2C(C)C)O)C(C)C | C27H36N4O3S
reactant | iodomethane | 0.3 mmol, 43 mg | IC | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-4-methoxyphenyl)acetamide | 44 mg, yield 43% | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C=C(C=C2C(C)C)OC)C(C)C | C28H38N4O3S
